US05688791
Synthesis of 1-ethyl-8-difluoromethoxy-7-[4-(2-pyrimidinyl)piperazin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
The same reaction as in Example 1 was carried out by using 1-ethyl-7-fluoro-8-difluoromethoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and 1-(2-pyrimidinyl)piperazine to obtain the title compound as white powder.

reactant | 1-ethyl-7-fluoro-8-difluoromethoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC=C(C(=C12)OC(F)F)F)=O)C(=O)O | C13H10F3NO4
reactant | 1-(2-pyrimidinyl)piperazine | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
product | 1-ethyl-8-difluoromethoxy-7-[4-(2-pyrimidinyl)piperazin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC=C(C(=C12)OC(F)F)N1CCN(CC1)C1=NC=CC=N1)=O)C(=O)O | C21H21F2N5O4
